US04051153
Rac. 3-benzyloxy-2-methyl-1-propanol
A solution of 1.59 g. of sodium hydroxide and 1.6 ml. of water in 402 ml. (420 g; 3.89 moles) of benzyl alcohol was stirred and cooled to -10° C. while 100 ml. (83.7 g.; 1.19 moles) of freshly distilled methacrolein were added dropwise keeping the temperature between -10° C. and -5° C. After the reaction mixture had stirred for 0.5 hr. at -10° C., a solution of 44.9 g. (1.19 moles) of sodium borohydride in 180 ml. of water was added dropwise over 1.75 hr. keeping the temperature below 5° C. Stirring was continued for an additional hour during which time the reaction mixture was allowed to warm to room temperature. The resulting mixture was poured into ice-water and the organic materials were extracted several times with ether. The ether extracts were worked up by first combining the extracts washing with saturated brine and drying over anhydrous magnesium sulfate. After filtration and removal of the solvents in vacuo, the residue was carefully fractionated, giving, after removal of low boiling materials, 39.6 g. of rac. 3benzyloxy-2methyl-1-propanol as a colorless liquid, b.p. 91°-98° C. (0.5 mm Hg.).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzyl alcohol | 3.89 moles, 420 g | C(C1=CC=CC=C1)O | C7H8O
reactant | methacrolein | O=CC(C)=C | C4H6O
reactant | sodium borohydride | 1.19 moles | [BH4-].[Na+]
solvent | water | O | H2O
product | Rac. 3-benzyloxy-2-methyl-1-propanol | C(C1=CC=CC=C1)OCC(CO)C | C11H16O2
